US04567001
6-Methyl-16-methyleneandrosta-4,6-diene-3,17-dione (IIIA)
6-Methylandrosta-4,6-diene-3,17-dione (IA, U.S. Pat. No. 3,177,966, Example 16, 3.0 g) was dissolved in THF (32 ml) and dimethyloxalate (1.64 g) was added. The mixture was cooled under nitrogen to 0°. Sodium methoxide in methanol (25%, 2.75 ml) was added dropwise. The mixture was stirred approximately 2 hrs. at 0°; then neutralized with acetic acid (0.12 ml). Triethylamine (1.2 ml) and methanol (5.0 ml) were added followed by formaldehyde solution (37%, 1.13 ml). Following addition of all the reactants, the ice bath was removed and the reaction stirred at 20°-25° for 1.5 hrs. Water (50 ml) was added, followed by ethyl acetate and methyl t-butyl ether. These phases were separated and the organic phase was washed twice with saline. The combined aqueous layers were back extracted once with ethyl acetate and the combined organic extracts were dried over sodium sulfate after the addition of some methylene chloride. The mixture was filtered through Celite and the filtrate removed under reduced pressure to give an oil which was chromatographed over silica gel (230-400 mesh, 140 g). The appropriate fractions were pooled and concentrated to give the title compound.

reactant | 6-Methylandrosta-4,6-diene-3,17-dione | CC1=C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O | C20H26O2
reactant | dimethyloxalate | 1.64 g | COC(C(=O)OC)=O | C4H6O4
reactant | Sodium methoxide | C[O-].[Na+]
reactant | formaldehyde | 1.13 ml | C=O | CH2O
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | methanol | 2.75 ml | CO | CH4O
solvent | methanol | 5.0 ml | CO | CH4O
solvent | Triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 0.12 ml | C(C)(=O)O | C2H4O2
product | 6-Methyl-16-methyleneandrosta-4,6-diene-3,17-dione | CC1=C[C@H]2[C@@H]3CC(C([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O)=C | C21H26O2
